US04045209
12 g of tert.-butylmercapto monomethylamine, 20 g of 3,4-dichlorophenyl isocyanate and 3 drops of triethylamine were added to 120 ml of tetrahydrofuran and after stirring the mixture for 30 minutes, the solvent was distilled off under reduced pressure. The residue was crystallized from ethanol to obtain 25.6 g of N-methyl-N-tert.-butylthio-N'-(3,4-dichlorophenyl)-urea melting at 127° C.

reactant | tert.-butylmercapto monomethylamine | 12 g | C(C)(C)(C)SNC | C5H13NS
reactant | 3,4-dichlorophenyl isocyanate | 20 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | N-methyl-N-tert.-butylthio-N'-(3,4-dichlorophenyl)-urea | 25.6 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)SC(C)(C)C | C12H16Cl2N2OS
